US08735589B2
Preparation of 2-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indol-5-yl]-ethanesulfonic Acid Methylamide
2-(1H-indol-5-yl)-ethanesulfonic acid methylamide (100 g) was dissolved in ethanol (1000 ml) and N-methyl-4-piperidone (200 ml) was added thereto at 25° C. and a solution of trifluoroacetic acid in ethanol (10 ml in 100 ml) was added over a period of 1 hour. The reaction mass was refluxed for 18-24 hours and cooled to 40° C. The reaction mass was concentrated under vacuum to obtain a residue and water (1500 ml) was added. The mixture was cooled to 10-15° C. and pH of the reaction mass was adjusted to 8 using 5% sodium bicarbonate solution and stirred. The resulting solid was filtered and dried at 50-55° C. under vacuum to obtain title compound (Yield: 93 g, HPLC Purity: 99%)

reactant | 2-(1H-indol-5-yl)-ethanesulfonic acid methylamide | 100 g | CNS(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C11H14N2O2S
reactant | N-methyl-4-piperidone | 200 ml | CN1CCC(CC1)=O | C6H11NO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1H-indol-5-yl]-ethanesulfonic Acid Methylamide | Yield: 93 g | CNS(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C17H23N3O2S
